US06096735
A mixture of methyl 4-(2-chlorostyryl)benzoate (trans form) (1.42 g), 5N sodium hydroxide (1.6 ml) and methanol (20 ml) is stirred at room temperature for three hours, and refluxed for two hours. The mixture is evaporated to remove the methanol, and to the residue is added water. The mixture is acidified with conc. hydrochloric acid, and stirred at room temperature for 16 hours. The precipitated crystals are collected by filtration to give 4-(2-chlorostyryl)benzoic acid (1.36 g) as white powder.

reactant | methyl 4-(2-chlorostyryl)benzoate | 1.42 g | ClC1=C(C=CC2=CC=C(C(=O)OC)C=C2)C=CC=C1 | C16H13ClO2
reactant | sodium hydroxide | 5N, 1.6 ml | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 4-(2-chlorostyryl)benzoic acid | 1.36 g | ClC1=C(C=CC2=CC=C(C(=O)O)C=C2)C=CC=C1 | C15H11ClO2
